US07148229B2
6-Chloro-pyridine-3-sulfonic acid {4-[3-butyl-1-(2-fluoro-benzyl)-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-ylmethyl]-phenyl}-amide
Prepared from 8-(4-amino-benzyl)-3-butyl-1-(2-fluoro-benzyl)-3,7-dihydro-purine-2,6-dione and 6-chloro-pyridine-3-sulfonyl chloride. Purity (ELSD, based on MW=597.1)=98%.

reactant | 8-(4-amino-benzyl)-3-butyl-1-(2-fluoro-benzyl)-3,7-dihydro-purine-2,6-dione | NC1=CC=C(CC2=NC=3N(C(N(C(C3N2)=O)CC2=C(C=CC=C2)F)=O)CCCC)C=C1 | C23H24FN5O2
reactant | 6-chloro-pyridine-3-sulfonyl chloride | ClC1=CC=C(C=N1)S(=O)(=O)Cl | C5H3Cl2NO2S
product | 6-Chloro-pyridine-3-sulfonic acid {4-[3-butyl-1-(2-fluoro-benzyl)-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-ylmethyl]-phenyl}-amide | C(CCC)N1C(N(C(C=2NC(=NC12)CC1=CC=C(C=C1)NS(=O)(=O)C=1C=NC(=CC1)Cl)=O)CC1=C(C=CC=C1)F)=O | C28H26ClFN6O4S
